US09359359B2
To a solution of 7-(4-chlorobenzyl)-8-(3-hydroxypropyl)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione (100 mg, 0.204 mmol) in DMF (3 mL) was added sodium hydride (24.5 mg, 0.612 mmol, 60% dispersion in mineral oil) at 0° C. The mixture was stirred at room temperature for 30 min. Iodoethane (63.6 mg, 0.408 mmol) was added to the reaction and it was stirred at room temperature for 16 h. The reaction was partitioned between ethyl acetate and brine. The organic phase was dried and concentrated to give a crude product, which was purified by silica gel chromatography eluting with petroleum ether/ethyl acetate (2:1 to 1:1) to give 7-(4-chlorobenzyl)-8-(3-ethoxypropyl)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione (96 mg, 90.6% yield) as a yellow solid. LCMS retention time 1.870 min; LCMS MH+ 519.

reactant | 7-(4-chlorobenzyl)-8-(3-hydroxypropyl)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione | 0.204 mmol, 100 mg | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCOC2OCCCC2)=O)C)CCCO)C=C1 | C24H31ClN4O5
reactant | sodium hydride | 0.612 mmol, 24.5 mg | [H-].[Na+]
reactant | Iodoethane | 0.408 mmol, 63.6 mg | ICC | C2H5I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 7-(4-chlorobenzyl)-8-(3-ethoxypropyl)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione | 96 mg, 90.6% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCOC2OCCCC2)=O)C)CCCOCC)C=C1 | C26H35ClN4O5
